US07625903B2
2-[(5-Fluoro-2-{[4-({[2(methylsulfonyl)ethyl]amino}methyl)phenyl]amino}-4-pyrimidinyl)amino]-N-(1-methylethyl)benzamide
2-({5-Fluoro-2-[(4-formylphenyl)amino]-4-pyrimidinyl}amino)-N-(1-methylethyl)benzamide (80 mg, 0.2 mmol, 1.0 eq), [2-(methylsulfonyl)ethyl]amine (100 mg, 0.6 mmol, 3.0 eq), and CH2Cl2 (2.0 mL) were added to a vessel, which was sealed and stirred at room temperature for 16 h. Solvent was removed by evaporation to leave a residue. NaBCNH4 (37 mg, 0.6 mmol, 3.0 eq) in CH2Cl2 (2.0 mL) was added was added to the residue and the reaction mixture was stirred at room temperature until the reaction was substantially complete, as determined by HPLC. The final product was purified by preparative HPLC using water (0.1% formic acid); acetonitrile (0.1% formic acid) as mobile phase. The desired compound was isolated as an off-white solid. (20 mg, 20% yield) MS: M(C24H29FN6O3S)=500.60, (M+H)+=501.

reactant | 2-({5-Fluoro-2-[(4-formylphenyl)amino]-4-pyrimidinyl}amino)-N-(1-methylethyl)benzamide | 0.2 mmol, 80 mg, 1.0 eq | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)C=O)NC1=C(C(=O)NC(C)C)C=CC=C1 | C21H20FN5O2
reactant | [2-(methylsulfonyl)ethyl]amine | 0.6 mmol, 100 mg, 3.0 eq | CS(=O)(=O)CCN | C3H9NO2S
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 2-[(5-Fluoro-2-{[4-({[2(methylsulfonyl)ethyl]amino}methyl)phenyl]amino}-4-pyrimidinyl)amino]-N-(1-methylethyl)benzamide | 20% yield | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)CNCCS(=O)(=O)C)NC1=C(C(=O)NC(C)C)C=CC=C1 | C24H29FN6O3S
